US09034866B2
Into a 10000-mL 4-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen was placed a solution of 9-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid (450 g, 1.46 mol, 1.00 equiv) in ACN (4500 mL), followed by the addition of (COCl)2 (450 mL) dropwise with stirring at 0° C. over 45 min. To this was added N,N-dimethylformamide (5 mL). The resulting solution was stirred at room temperature for 7 h, diluted with 2000 mL of DCM and concentrated under vacuum to afford 450 g (94%) of 9-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carbonyl chloride as a gray solid.

reactant | 9-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid | 1.46 mol, 450 g, 1.00 equiv | BrC=1C=CC2=C(C3=NC(=CN3CCO2)C(=O)O)C1 | C12H9BrN2O3
reactant | (COCl)2 | 450 mL | C(=O)(C(=O)Cl)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ACN | 4500 mL | C(C)#N | C2H3N
solvent | DCM | 2000 mL | C(Cl)Cl | CH2Cl2
product | 9-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carbonyl chloride | 450 g, 94% | BrC=1C=CC2=C(C3=NC(=CN3CCO2)C(=O)Cl)C1 | C12H8BrClN2O2
